US07888364B2
150 mg of (S)-propylene oxide was reacted with methyl 4-mercaptobenzoate via Procedure S to afford (S)-methyl 4-(2-hydroxypropylthio)benzoate. 650 mg of (S)-methyl 4-(2-hydroxypropylthio)benzoate was reacted via Procedure R to give (S)-methyl 4-(2-hydroxypropylsulfonyl)benzoate. 350 mg of (S)-methyl 4-(2-hydroxypropylsulfonyl)benzoate was hydrolyzed via Procedure M to give (S)-4-(2-hydroxypropylsulfonyl)benzoic acid. 45 mg of 4-chloro-3-(pyridine-2-yl)aniline was coupled to (S)-4-(2-hydroxypropylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield (S)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-hydroxypropylsulfonyl)benzamide. MS (Q1) 431.3 (M)+.

reactant | 4-chloro-3-(pyridine-2-yl)aniline | 45 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | (S)-4-(2-hydroxypropylsulfonyl)benzoic acid | O[C@H](CS(=O)(=O)C1=CC=C(C(=O)O)C=C1)C | C10H12O5S
product | (S)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-hydroxypropylsulfonyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(=O)(=O)C[C@H](C)O)=O)C1=NC=CC=C1 | C21H19ClN2O4S
